US20010037039A1
3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propanol Hydrochloride
3-(2-Cyanophenylsulfonyloxy)-5-methylphenol: Orcinol monohydrate (1.42 g, 10.0 mmol) and 2-cyanobenzenesulfonyl chloride (2.02 g, 10.0 mmol) were mixed in saturated NaHCO3 (30 mL) and diethyl ether (30 mL). The biphasic mixture was stirred vigorously at room temperature overnight. The reaction mixture was diluted with water (50 mL) and extracted into ethyl acetate (3×50 mL). The organic phase was washed with brine (2×50 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane to 5% ethyl acetate in dichloromethane) to give the title compound as a white solid (1.65 g, 57%). 1H-NMR (300 MHz, CDCl3) δ8.07 (m, 1H), 7.94 (m, 1H), 7.75-7.80 (m, 2H), 6.57 (s, 1H), 6.53 (s, 1H), 6.49 (s, 1H), 5.69 (br s, 1H), 2.22 (s, 3H).

reactant | 3-(2-Cyanophenylsulfonyloxy)-5-methylphenol | C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C14H11NO4S
reactant | Orcinol monohydrate | 10.0 mmol, 1.42 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2-cyanobenzenesulfonyl chloride | 10.0 mmol, 2.02 g | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | water | 50 mL | O | H2O
product | 3-[3-(2-Cyanophenylsulfonyloxy)-5-methylphenoxy]propanol Hydrochloride | 1.65 g, 57% | Cl.C(#N)C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | InChI=1S/C17H17NO5S.ClH/c1-13-9-15(22-8-4-7-19)11-16(10-13)23-24(20,21)17-6-3-2-5-14(17)12-18;/h2-3,5-6,9-11,19H,4,7-8H2,1H3;1H
